US08580841B2
Step A: Preparation of Methyl 4-(Cyclohexylmethyl)-3-(trifluoromethyl)benzoate.
To a stirred solution of methyl 4-chloro-3-(trifluoromethyl)benzoate (238 mg, 1.0 mmol) and bis(tri-t-butylphosphine)palladium (0) (51 mg, 0.10 mmol) in THF (2 mL) was added (cyclohexylmethyl)zinc(II) bromide (6 mL, 3.00 mmol) at room temperature. The reaction mixture was heated at reflux for 2 h, quenched with saturated NaHCO3 solution, filtered through Celite. The filtrate was extracted with ethyl acetate. The combined organics were dried and concentrated, and the residue was purified by column chromatography to give the title compound (280 mg) as colorless oil. LCMS m/z=301.4 [M+H]+. 1H NMR (400 MHz, CDCl3) δ 0.96-1.06 (m, 2H), 1.14-1.22 (m, 3H), 1.62-1.72 (m, 6H), 2.71 (d, J=6.7 Hz, 2H), 3.94 (s, 3H), 7.39 (d, J=8.1 Hz, 1H), 8.10 (dd, J=8.0 and 1.5 Hz, 1H), 8.30 (d, J=1.4 Hz, 1H).

reactant | methyl 4-chloro-3-(trifluoromethyl)benzoate | 1.0 mmol, 238 mg | ClC1=C(C=C(C(=O)OC)C=C1)C(F)(F)F | C9H6ClF3O2
reactant | (cyclohexylmethyl)zinc(II) bromide | 3.00 mmol, 6 mL | [Br-].C1(CCCCC1)C[Zn+]
solvent | THF | 2 mL | C1CCOC1 | C4H8O
catalyst | bis(tri-t-butylphosphine)palladium | 0.10 mmol, 51 mg | CC(C)([P](C(C)(C)C)([Pd][P](C(C)(C)C)(C(C)(C)C)C(C)(C)C)C(C)(C)C)C
product | Methyl 4-(Cyclohexylmethyl)-3-(trifluoromethyl)benzoate | 280 mg | C1(CCCCC1)CC1=C(C=C(C(=O)OC)C=C1)C(F)(F)F | C16H19F3O2
